US09029391B2
[(1,1-dimethylethyl)oxy][4-(3,4-dimethylphenyl)-2-methyl-7-(1-methyl-1H-pyrazol-4-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]acetic acid
The title compound was prepared in two steps in a manner similar to that described in Example 191 from methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and was isolated as a pale yellow solid (20 mg, 57%) after reverse phase chromatography as the trifluoroacetate salt: 1H NMR (400 MHz, CHLOROFORM-d) δ=8.59 (s, 1 H), 7.91 (s, 1 H), 7.82 (s, 1 H), 7.70-7.53 (m, 1 H), 7.45-7.31 (m, 1 H), 7.32-7.22 (m, 1 H), 7.17 (dd, J=8.5, 12.4 Hz, 1 H), 7.12-7.03 (m, 1 H), 5.36 (d, J=1.0 Hz, 1 H), 4.00 (s, 3 H), 3.73 (s, 3 H), 2.38 (s, 3 H), 2.33 (d, J=2.5 Hz, 3 H), 1.07 (d, 9 H); LC/MS (m/z) ES+=474 (M+1).

reactant | methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate | BrC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C25H28BrNO4
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | [(1,1-dimethylethyl)oxy][4-(3,4-dimethylphenyl)-2-methyl-7-(1-methyl-1H-pyrazol-4-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]acetic acid | CC(C)(C)OC(C(=O)O)C=1N(C(C2=CC(=CC=C2C1C1=CC(=C(C=C1)C)C)C=1C=NN(C1)C)=O)C | C28H31N3O4
